US09326987B2
N-[6-Bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-yl]-2-methyl-1,3-thiazole-4-carboxamide
In a round bottom flask was introduced 6-bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine (2.77 g) dissolved in DCM (120 ml) followed by the addition of pyridine (1.135 ml). The reaction mixture was left to stir for a few minutes before the addition of 2-methyl-1,3-thiazole-4-carbonyl chloride (2.267 g). The reaction mixture was left to stir at RT for 1 h. After this time the reaction mixture was extracted between DCM and saturated sodium bicarbonate aq. The extracted organic layer was dried down. The crude was dissolved in DCM and adsorbed onto fluorisil before purification by solid loading on companion using Si Column (40 g) eluting with 40-100% ethyl acetate in cyclohexane. The appropriate fractions were combined and evaporated to dryness to yield the title compound, 2.6 g.

reactant | 6-bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | 2.77 g | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C12H14BrN3O
reactant | pyridine | 1.135 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-1,3-thiazole-4-carbonyl chloride | 2.267 g | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
product | N-[6-Bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-yl]-2-methyl-1,3-thiazole-4-carboxamide | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)NC(=O)C=1N=C(SC1)C | C17H17BrN4O2S
